US05180737
Amalgamated zinc (prepared from zinc powder (6 g), mercuric chloride (0.6 g)) was heated under reflux for 7 hours with 2-allyl-4-chloro-indan-1-one (3 g), toluene (20 ml), conc. hydrochloric acid (20 ml), water (8 ml) and acetic acid (2 ml). Upon cooling conventional work-up gave a crude product which was purified by chromatography (silica/hexane) to give a 2-allyl-4-chloroindane (1.8 g). 2-Allyl-4-chloroindane (0.8 g) in dry methanol (10 ml) and dry dichloromethane (2 ml) was reacted at -35° with ozone until the blue colour persisted. After purging with nitrogen the solution was stirred 16 hours with dimethyl sulphide (2.58 g). The volatiles were removed and the residue taken up in tetrahydrofuran (10 ml) and heated under reflux with 4-toluenesulphonic acid (30 mg) and water (circa 0.5 ml) for 2 hours. After conventional work up the product, 2-(4-chloro-2-indanyl) ethanol, was obtained as a yellow oil (0.8 g).

reactant | 2-allyl-4-chloro-indan-1-one | 3 g | C(C=C)C1C(C2=CC=CC(=C2C1)Cl)=O | C12H11ClO
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | water | 8 ml | O | H2O
catalyst | zinc | 6 g | [Zn] | Zn
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-allyl-4-chloroindane | 1.8 g | C(C=C)C1CC2=CC=CC(=C2C1)Cl | C12H13Cl
